* ================================================
* Netlist: TB Cascode Spectre
* Dialect: spectre | Backend: spectre
* Auto-generated by SchemifyRS — DO NOT EDIT above marker
* ================================================

* No netlist generated yet for: TB Cascode Spectre

* ===== USER STIMULUS (edit below this line) =====

// Spectre dialect testbench — NMOS cascode amplifier
// Model library (use your PDK path)
include "/pdk/models/spectre/nmos_1v8.scs" section=tt

subckt cascode_amp (vin vout vdd vss)
  M1 (mid vin vss vss) nmos_1v8 w=10u l=180n m=1
  M2 (vout vbias mid vss) nmos_1v8 w=10u l=180n m=1
  Rd (vdd vout) resistor r=5k
  Vbias (vbias 0) vsource dc=1.2
ends cascode_amp

Xdut (vin vout vdd 0) cascode_amp
Vdd (vdd 0) vsource dc=1.8
Vin (vin 0) vsource dc=0.65 mag=10m

Cload (vout 0) capacitor c=1p

// DC operating point
dcOp dc

// DC sweep
dcSweep dc param=Vin.dc start=0 stop=1.8 step=10m

// AC small-signal
acAnalysis ac start=1 stop=10G dec=20

// Save outputs
save Xdut:vout Xdut:mid
